********************
* Version 1.1.1a -- dual emitter bond pad
.SUBCKT MMBR941 100 200 300 
LCL 100 199 2.8E-10 
LBL 200 201 3.2E-10 
LBB 201 299 8.4E-10 
LEL 300 301 3.2E-10 
LEB 301 399 8.4E-10 
CCB 201 199 6E-14 
CCE 199 301 2.4E-13 
CBE 201 301 1.2E-13 
X1 199 299 399 XMBR941
.ENDS
********************
.SUBCKT XMBR941 1 2 3 
CBPAD 1 2 6.5E-14 
CEPAD 1 3 13.0E-14 
Q1 1 2 3 DMBR941 
.ENDS
********************
.MODEL DMBR941 NPN 
+ IS = 8.148E-16 
+ BF = 144 
+ NF = 1.002 
+ VAF = 20 
+ IKF = 0.7 
+ ISE = 1.902E-13 
+ NE = 2.077 
+ BR = 43.92 
+ NR = 1 
+ VAR = 2.5 
+ IKR = 0.00825 
+ ISC = 8.972E-16 
+ NC = 1.381 
+ RB = 9 
+ IRB = 8E-05 
+ RBM = 9 
+ RE = 0.48 
+ RC = 6 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 8.85E-13 
+ VJE = 0.956 
+ MJE = 0.489 
+ CJC = 3.5E-13 
+ VJC = 0.57 
+ MJC = 0.2418 
+ XCJC = 0.3 
+ TF = 1.2E-11 
+ XTF = 500 
+ VTF = 5 
+ ITF = 1.3 
+ PTF = 70 
+ TR = 1E-09 
+ FC = 0.9 
